US06492358B2
1-(3,4-Methylenedioxyphenyl)-2-[5-(3-trifluoromethylphenyl)furoyl]-2,3,4,9-tetrahydro-1H-β-carboline (#58)
To a suspension of 5-(3-trifluoromethylphenyl)furoic acid (256 mg, 1 mmol) in DCM (20 mL, anhydrous) was added oxalyl chloride (165 mg, 1.3 mmol), followed by two drops of DMF. The mixture was stirred at room temperature for 1 h. A solution of 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline (292 mg, 1 mmol) (prepared according to the process as disclosed in WO 97/43287, Intermediate 7, page 24) and triethylamine (0.4 mL) in DCM (10 mL, anhydrous) was added and the mixture was stirred at room temperature for 16 h, washed sequentially with aqueous NaHCO3, brine (2X), 1N HCl and brine (2X) and dried with MgSO4. After evaporation of the solvent, a white solid was obtained.

reactant | 5-(3-trifluoromethylphenyl)furoic acid | 1 mmol, 256 mg | FC(C=1C=C(C=CC1)C1=CC=C(O1)C(=O)O)(F)F | C12H7F3O3
reactant | oxalyl chloride | 1.3 mmol, 165 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 1 mmol, 292 mg | C1OC=2C=C(C=CC2O1)C1NCCC=2C3=CC=CC=C3NC12 | C18H16N2O2
reactant | triethylamine | 0.4 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,4-Methylenedioxyphenyl)-2-[5-(3-trifluoromethylphenyl)furoyl]-2,3,4,9-tetrahydro-1H-β-carboline | C1OC=2C=C(C=CC2O1)C1N(CCC=2C3=CC=CC=C3NC12)C(=O)C=1OC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C30H21F3N2O4
